US04011255
3. Synthesis of perfluoro-6,11-dioxahexadecanedinitrile
the perfluoro-6,11-dioxahexadecanediamide (16.6 g, 0.023 mole) was mixed with an excess of phosphorus pentoxide, placed in a distillation flask and heated to 210° C for 2 hours. The reaction mixture was cooled, a vacuum of 105 mm was applied and heat was reapplied. The fraction boiling between 120°-125° C at 105 mm was collected (15.3 g, 96% yield). Analysis of the product confirmed the dinitrile structure. Infrared and nuclear magnetic resonance 1H and 19F were consistent with the structure. Mass spectral analysis, calculated M+684, found M+684 and elemental analysis were consistent with the proposed dinitrile structure.

reactant | perfluoro-6,11-dioxahexadecanediamide | 0.023 mole, 16.6 g | FC(C(=O)N)(C(C(C(OC(C(C(C(OC(C(C(C(C(=O)N)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C14H4F24N2O4
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | perfluoro-6,11-dioxahexadecanedinitrile | 96% yield | FC(C#N)(C(C(C(OC(C(C(C(OC(C(C(C(C#N)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C14F24N2O2
